US04532242
A mixture of 2.5 g (0.015 mole) of 4-hydrazino-2-methyl-6-methylthiopyrimidine and 50 ml of triethyl orthoacetate was heated at its reflux temperature for five days, and was then cooled. The solid was separated by filtration and recrystallized with treatment with decolorizing charcoal from first an ethyl acetate-hexane mixture, and then a benzene-hexane mixture to provide 3,5-dimethyl-7-methylthio-1,2,4-triazolo[4,3-c]pyrimidine, m.p. 201°-203° C.

reactant | 4-hydrazino-2-methyl-6-methylthiopyrimidine | 0.015 mole, 2.5 g | N(N)C1=NC(=NC(=C1)SC)C | C6H10N4S
reactant | triethyl orthoacetate | 50 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | 3,5-dimethyl-7-methylthio-1,2,4-triazolo[4,3-c]pyrimidine | CC1=NN=C2N1C(=NC(=C2)SC)C | C8H10N4S
